US04954498
8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinoline-5,7-dione.
37 g. (100 mmole) of the above compound were deacetylated by refluxing for 20 hours in 350 ml. ethanol and 175 ml. concentrated hydrochloric acid. After cooling, the reaction mixture was poured on to ice, filtered off with suction and washed with water to give 27.4 g. (84% of theory) 4,4-dimethyl-6-nitro-7-amino-8-bromo-1,2,3,4-tetrahydroisoquinoline-1,3-dione; m.p. 218 -221° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 4,4-dimethyl-6-nitro-7-amino-8-bromo-1,2,3,4-tetrahydroisoquinoline-1,3-dione | CC1(C(NC(C2=C(C(=C(C=C12)[N+](=O)[O-])N)Br)=O)=O)C | C11H10BrN3O4
solvent | ethanol | C(C)O | C2H6O
product | 8,8-Dimethyl-2-(4-pyridyl)-5,6,7,8-tetrahydro-lH-imidazo[4,5-g]isoquinoline-5,7-dione | CC1(C(NC(C=2C=C3C(=CC12)NC(=N3)C3=CC=NC=C3)=O)=O)C | C17H14N4O2
